US04877779
6-Diethylaminohex-4-ynal.
To a solution of oxalyl chloride (32 mL, 352 mmol) in methylene chloride (800 mL) under argon atmosphere at -78° C. was added dimethylsulfoxide (54.4 mL, 704 mmol) in methylene chloride (40 mL) over 15 minutes. After stirring for 5 minutes 6-diethylaminohex-4-yn-1-ol (50 g, 296 mmol) dissolved in methylene chloride (60 mL) was added dropwise over 35 minutes. After stirring 20 minutes triethylamine (224 mL, 1600 mmol) was added at -78° C. over 30 minutes and the reaction mixture was allowed to warm to room temperature. Water (400 mL) was added, the layers were separated, and the organic layer was washed with water (2×200 mL). The aqueous layer was back-extracted with methylene chloride (2×150 mL) and the combined organic extracts were washed with brine and dried (MgSO4). Removal of solvent under reduced pressure gave a quantitative yield of the product as an oil. 1H NMR (CDCl3) δ: 1.13 (t, 6H), 2.48-2.58 (m, 6H), 2.65 (q, 2H), 3.39 (d, 2H), 9.80 (s, 1H) ppm.

reactant | oxalyl chloride | 352 mmol, 32 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 704 mmol, 54.4 mL | CS(=O)C | C2H6OS
reactant | 6-diethylaminohex-4-yn-1-ol | 296 mmol, 50 g | C(C)N(CC#CCCCO)CC | C10H19NO
reactant | triethylamine | 1600 mmol, 224 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 400 mL | O | H2O
product | 6-Diethylaminohex-4-ynal | quantitative yield | C(C)N(CC#CCCC=O)CC | C10H17NO
